US05498630
A solution of 2-tert-butylbenzoic acid (4.0 g, 22.5 mmol) in thionyl chloride (8.2 mL, 112 mmol) was stirred at RT for 2 h, then was concentrated three times from carbon tetrachloride to remove all traces of excess thionyl chloride. A solution of diethylamine (4.93 g, 67.4 mmol) in CH2Cl2 (10 mL) was added dropwise over 10 min to an ice water-cooled solution of the crude acid chloride in CH2Cl2 (35 mL). Ten min after addition was complete, the reaction was partitioned between ether and 10% HCl. The ether phase was then washed with sat aq NaHCO3, then was dried (MgSO4), and concentrated to afford a quantitative yield of N,N-diethyl-2-tert-butylbenzamide as an off-white solid. m.p. 38.5°-40.5° C.

reactant | 2-tert-butylbenzoic acid | 22.5 mmol, 4.0 g | C(C)(C)(C)C1=C(C(=O)O)C=CC=C1 | C11H14O2
reactant | thionyl chloride | 112 mmol, 8.2 mL | S(=O)(Cl)Cl | Cl2OS
reactant | diethylamine | 67.4 mmol, 4.93 g | C(C)NCC | C4H11N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 35 mL | C(Cl)Cl | CH2Cl2
product | N,N-diethyl-2-tert-butylbenzamide | quantitative yield | C(C)N(C(C1=C(C=CC=C1)C(C)(C)C)=O)CC | C15H23NO
